Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
headache, discomfort with foley
 
Major Surgical or Invasive Procedure:
Foley exchange in ED

 
History of Present Illness:
___ ___ male from ___ with BPH and
intermittent indwelling foley cathter presented to the ED with
headache and discomfort at site of foley catheter entry. He
states that he felt feverish 2 days ago, took ibuprofen and it
improved. He reported myalgias per ED report, but denied on
admission. Denies chest pain, SOB, cough, vomiting, nausea,
diarrhea, constipation, vision changes, numbness or tingling. 

ROS: As above, otherwise 10 pt ROS negative. 

In the ED, he was afebrile T99 and slightly tachycardic at 117.
He received CTX, 1L IVF bolus, Tylenol. Lactate 1.2, WBC 18K,+
UA, electrolytes without abnormality. Foley was exchanged. Blood
and urine cultures sent and he was admitted to the medical 
floor.

Upon arrival, he reports feeling well. He is asking if he can go
home. He states that previously he has received medical care in
___ but has insurance here now and wants to establish
care with new PCP, ___. His last foley was
placed in ___ and ___ been in place for over one month. 
Previously has required indwelling foley up to 4 months at a 
time
for his enlarged prostate. He does not have a urologist.  

 
Past Medical History:
BPH s/p indwelling foley catheter
Chronic fatigue syndrome
Depression

 
Social History:
___
Family History:
No known family history of cardiac dz or DM. Father with "bone 
cancer", sister with ___ cancer. His daughter has depression 
and chronic fatigue syndrome. His older brother has BPH and had 
a procedure, he does not know if he required a
foley catheter. 
 
Physical Exam:
Vitals: 98.1   117/61  79  18  98%RA
Gen: NAD, alert, laying in bed, speaking full sentences fluently
in ___
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, normal S1, S2
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+, no suprapubic or CVA tenderness
Ext: warm, dry, no c/c/e
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop. Nonfocal exam, ambulates
independently
Psych: slightly restricted affect, pleasant, appropriate
GU: Foley catheter in place draining clear urine
 
Pertinent Results:
Labs: 
___ 02:12AM BLOOD WBC-18.1* RBC-4.85 Hgb-15.1 Hct-44.0 
MCV-91 MCH-31.1 MCHC-34.3 RDW-11.9 RDWSD-39.8 Plt ___
___ 08:50AM BLOOD WBC-15.4* RBC-4.92 Hgb-15.2 Hct-44.7 
MCV-91 MCH-30.9 MCHC-34.0 RDW-11.9 RDWSD-39.8 Plt ___
___ 08:50AM BLOOD ___ PTT-25.3 ___
___ 02:12AM BLOOD Glucose-181* UreaN-10 Creat-0.9 Na-134 
K-3.9 Cl-100 HCO3-25 AnGap-13
___ 08:50AM BLOOD Glucose-127* UreaN-11 Creat-0.8 Na-140 
K-4.1 Cl-106 HCO3-24 AnGap-14
___ 08:50AM BLOOD Calcium-8.6 Phos-2.3* Mg-2.3
___ 02:00AM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:00AM URINE Blood-LG Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 02:00AM URINE RBC-59* WBC-159* Bacteri-FEW Yeast-NONE 
Epi-0

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING 
___ URINE URINE CULTURE-PENDING
 
Brief Hospital Course:
___ with BPH s/p indwelling foley catheter presents with 
headache and foley discomfort, found to have a catheter 
associated urinary tract infection. 

# Catheter associated urinary tract infection: Complicated UTI. 
With leukocytosis and mild tachycardia that resolved upon 
arrival to the floor. It is unclear why he has an indwelling 
foley, though he reports this is how his BPH has been managed 
for some time now. He does not have a urologist, and this will 
be crucial
in ongoing outpatient care. S/p 1 dose of ceftriaxone in ED, 
transitioned to ___. 

Patient feeling well and remained hemodynamically stable, 
headache and tachycardia improved/resolved. Discussed with 
family who wished to bring him there tomorrow morning. Given his 
lack of severe systemic signs of infection, he did not require 
ongoing hospital care. He was transitioned to ciprofloxacin 
500mg PO BID to complete total 7 day course pending further 
culture data. Discussed with future PCP. Reinforced to patient 
and family importance of PCP ___. 

# Depression/Chronic fatigue syndrome: Not taking any 
medications, only herbal supplements. Will likely benefit from 
outpatient counseling. Herbal supplements will need to be 
further elucidated - phone translator unable to assist. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*11 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Catheter associated urinary tract infection. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for a urinary tract infection. You were given 
antibiotics and fluids and your foley catheter was changed. 
Please take the antibiotics until they are finished: 

Ciprofloxacin 500mg by mouth twice daily for 6 days

Please make sure you go to your appointment with your new 
primary care doctor, ___. You will need to 
see a urologist in clinic within the next few weeks. 

We wish you the best.
 
Followup Instructions:
___